US06936632B2
d) 2-(4-Methylsulphinylphenyl)-1-phenyl-6,7-dihydro-5H-pyrrolizine
2-Benzyl-1-pyrroline (2.0 g, 80% strength, 10 mmol), dissolved in MeOH (30 ml), is treated with a solution of 4-methylsulphinylphenacyl bromide (2.1 g, 8 mmol) in CH2Cl2 (10 ml) and then with NaHCO3 (1.5 g, 18 mmol) and the mixture is stirred at RT until a TLC sample (Al2O3, hexane/ether 9:1) indicates the complete reaction of the bromoketone (Rf 0.75) and an adequate formation of product (Rf=0.2) (48 h). After addition of water (50 ml), the mixture is extracted with diethyl ether (3×30 ml), and the combined extracts are dried over Na2SO4 sicc. and concentrated. The residue is purified by CC (Al2O3, hexane/ether 1:1). 0.3 g (12%) of the compound sought is isolated.

reactant | 2-Benzyl-1-pyrroline | 10 mmol, 2.0 g | C(C1=CC=CC=C1)C1=NCCC1 | C11H13N
reactant | 4-methylsulphinylphenacyl bromide | 8 mmol, 2.1 g | CS(=O)C1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2S
reactant | NaHCO3 | 18 mmol, 1.5 g | C(=O)(O)[O-].[Na+]
reactant | bromoketone | BrC(=O)Br | CBr2O
solvent | MeOH | 30 ml | CO | CH4O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | hexane ether | CCCCCC.CCOCC
product | 2-(4-Methylsulphinylphenyl)-1-phenyl-6,7-dihydro-5H-pyrrolizine | 0.3 g, 12% | CS(=O)C1=CC=C(C=C1)C=1C(=C2CCCN2C1)C1=CC=CC=C1 | C20H19NOS
